US06992103B2
Methyl 3-cyclopropylmethoxy-5-(2-oxopyrrolidin-1-yl)benzoate (D42)
Prepared in an analogous manner to D14 (first part of synthesis) from cyclopropylmethanol and methyl 3-hydroxy-5-(2-oxopyrrolidin-1-yl)-benzoate (D41).

reactant | cyclopropylmethanol | C1(CC1)CO | C4H8O
reactant | methyl 3-hydroxy-5-(2-oxopyrrolidin-1-yl)-benzoate | OC=1C=C(C(=O)OC)C=C(C1)N1C(CCC1)=O | C12H13NO4
product | Methyl 3-cyclopropylmethoxy-5-(2-oxopyrrolidin-1-yl)benzoate | C1(CC1)COC=1C=C(C(=O)OC)C=C(C1)N1C(CCC1)=O | C16H19NO4
